* C:\users\fverstra\My Documents\Repository\CE1-6608-2017\TP\TL1\simul\A2.asc
XU1 0 N001 +v12 -v12 Vo LM741/NS
R2 Vo N001 10K
V1 +v12 0 12
V2 0 -v12 12
R1 N001 Vi 1K
V3 Vi 0 AC 52m 0
.lib LM741.MOD
;tran 0 0.001 0 1u
.ac oct 100 1 1meg
.backanno
.end
