* C:\users\fverstra\My Documents\Repository\CE1-6608-2017\TP\TL2\simul\parteD.asc
Q§BC548B Vo Vb N001 0 NPN
C1 VR1 Vo 10n
C2 VR2 VR1 10n
C3 Vb VR2 10n
R1 VR1 0 10k
R2 VR2 0 10k
C4 N001 0 100µ
R5 N001 0 1k
R3 Vb 0 10k
R4 Vcc Vb 82k
R6 Vcc Vo 4,7k
V1 Vcc 0 20
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 0.07 0 0.001
.model BC548B   NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=61.66 Bf=290
+ Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f 
+ Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 
+ Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 
+Xtf=40.06 Vtf=10)
.backanno
.end
